US07208495B2
1-benzyl-4-(2,2,4,6,7-pentamethyl-3-(pyrrolidinyl)-2,3-dihydro-1-benzofuran-5-yl)piperazine dihydrochloride
Using pyrrolidine and 5-(4-benzyl piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-ol obtained in Reference Example 42, the free base was obtained in the same manner as in Example 57. The free base was treated with a 4 N hydrochloric acid in ethyl acetate solution (10 ml) to obtain the title compound. Yield 93%. mp. 224–227° C. (decomposition) (ethyl acetate-ethanol).

reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 5-(4-benzyl piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-ol | C(C1=CC=CC=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)O)C1C)C)C | C24H32N2O2
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 1-benzyl-4-(2,2,4,6,7-pentamethyl-3-(pyrrolidinyl)-2,3-dihydro-1-benzofuran-5-yl)piperazine dihydrochloride | Yield 93% | Cl.Cl.C(C1=CC=CC=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)N2CCCC2)C1C)C)C | InChI=1S/C28H39N3O.2ClH/c1-20-21(2)26-24(27(28(4,5)32-26)31-13-9-10-14-31)22(3)25(20)30-17-15-29(16-18-30)19-23-11-7-6-8-12-23;;/h6-8,11-12,27H,9-10,13-19H2,1-5H3;2*1H
